US08349824B2
A mixture of 1,2-diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate (2 g, 5.15 mmol) and isobutyryl chloride (809 μl, 7.73 mmol) in pyridine (12 ml) is stirred for 18 hours at 100° C. The solvent is evaporated and the orange residue triturated for 2 hrs with sat. aqueous sodium hydrogen carbonate solution. The solid is collected by filtration, washed several times with water and dried affording 7-bromo-2-isopropyl-[1,2,4]triazolo[1,5-a]pyridine (378 mg, 30.6%) as a light brown solid. MS: m/z=240; 242 (M+H+).

reactant | 1,2-diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate | 5.15 mmol, 2 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=C(C=C(C=C1)Br)N
reactant | isobutyryl chloride | 7.73 mmol, 809 μl | C(C(C)C)(=O)Cl | C4H7ClO
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 7-bromo-2-isopropyl-[1,2,4]triazolo[1,5-a]pyridine | 378 mg, 30.6% | BrC1=CC=2N(C=C1)N=C(N2)C(C)C | C9H10BrN3
